US08084623B2
tert-Butyllithium (1.7 M in pentane, 13 mL, 22.13 mmol) was added to a solution of 5-bromo-1-triisopropylsilanyl-1H-indole (3.54 g, 10.06 mmol) in THF (35 mL) at −78° C. under nitrogen atmosphere. The pale yellow reaction mixture was stirred at −78° C. for 15 minutes, then a solution of 3-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.60 g, 10.06 mmol) in THF (5 mL) was slowly added. The resulting mixture was stirred at −78° C. for 30 minutes, then allowed to warm to room temperature over a period of 1 hour. The reaction was quenched by addition of a saturated aqueous solution of NH4Cl and was partitioned between water and EtOAc. The organic layer was dried over MgSO4, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (10% to 25% of EtOAc in hexane) to give 2.66 g (56% yield) of 3-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester as colorless oil.

reactant | tert-Butyllithium | 22.13 mmol, 1.7 M, 13 mL | C(C)(C)(C)[Li]
reactant | 5-bromo-1-triisopropylsilanyl-1H-indole | 10.06 mmol, 3.54 g | BrC=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | 3-(methoxy-methyl-carbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 10.06 mmol, 2.60 g | C(C)(C)(C)OC(=O)N1CC(CC1)C(N(C)OC)=O | C12H22N2O4
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(1-triisopropylsilanyl-1H-indole-5-carbonyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.66 g, 56% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C(=O)C=1C=C2C=CN(C2=CC1)[Si](C(C)C)(C(C)C)C(C)C | C27H42N2O3Si
